US07772226B2
(f) t-Butyl 4-[1-(2-butynyl)-5-cyano-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate
3.28 g of manganese dioxide was added to a 5 ml dichloromethane solution of 1.35 g of t-butyl 4-[1-(2-butynyl)-5-cyano-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate. The reaction solution was stirred at room temperature for 15 hours, then stirred and heated under reflux for five hours. The solution was filtered, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 1.11 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (2:3).

reactant | t-butyl 4-[1-(2-butynyl)-5-cyano-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 1.35 g | C(C#CC)N1C(=NC(=C1C#N)CO)N1CCN(CC1)C(=O)OC(C)(C)C | C18H25N5O3
catalyst | manganese dioxide | 3.28 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | t-Butyl 4-[1-(2-butynyl)-5-cyano-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 1.11 g | C(C#CC)N1C(=NC(=C1C#N)C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N5O3
